US08486952B2
4-(trifluoromethyl)phenylboronic acid was reacted as described in Intermediate X(2) with 3-iodo-4,4-dimethoxytetrahydro-2H-pyran (Intermediate X(1)) to give 3-(4-(trifluoromethyl)phenyl)dihydro-2H-pyran-4(3H)-one (Intermediate Z(2)).

reactant | 4-(trifluoromethyl)phenylboronic acid | FC(C1=CC=C(C=C1)B(O)O)(F)F | C7H6BF3O2
reactant | 3-iodo-4,4-dimethoxytetrahydro-2H-pyran | IC1COCCC1(OC)OC | C7H13IO3
product | 3-(4-(trifluoromethyl)phenyl)dihydro-2H-pyran-4(3H)-one | FC(C1=CC=C(C=C1)C1COCCC1=O)(F)F | C12H11F3O2
